US04804668
N,N-Dimethylethylenediamine (1.4 ml) was added to a suspension of methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate (200 mg) in water (2.8 ml) at room temperature, and the mixture was stirred at room temperature for overnight. The mixture was evaporated to dryness and the residue was chromatographed on an activated alumina column and eluted with chloroform to give 4-methyl-N-(2-dimethylaminoethyl)-5-(4-pyridinyl)-thiazole-2-carboxamide as yellow oil.

reactant | N,N-Dimethylethylenediamine | 1.4 ml | CN(CCN)C | C4H12N2
reactant | methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate | 200 mg | CC=1N=C(SC1C1=CC=NC=C1)C(=O)OC | C11H10N2O2S
solvent | water | 2.8 ml | O | H2O
product | 4-methyl-N-(2-dimethylaminoethyl)-5-(4-pyridinyl)-thiazole-2-carboxamide | CC=1N=C(SC1C1=CC=NC=C1)C(=O)NCCN(C)C | C14H18N4OS
